US05256672
6,7-Dihydro-3-phenyl-5-[3-(1-piperidinyl) -propyl]-1,2-benzisoxazol-4(5H)-one
To a solution consisting of 5-(3-chloropropyl)-6,7-dihydro-3-phenyl-1,2-benzisoxazol-4(5H)-one (4.00 g) and dimethylformamide (69 ml) was added diisopropylethyl amine (4.81 ml), piperidine (1.50 ml) and sodium iodide (0.62 g) at room temperature with stirring. The reaction was flushed with nitrogen and warmed at 83°-85° C. for 7-8 hours. Upon cooling to room temperature, water and ethyl acetate were added to the reaction mixture. The layers were separated and the aqueous layer extracted twice with ethyl acetate and once with ether. The combined organic layers were washed with brine and dried (MgSO4). Filtration and concentration gave the crude product. Purification via flash column chromatogaphy (silica gel, 2% triethylamine/0-4% methanol/ethyl acetate) afforded 2.30 g of the product. Recrystallization from ether/pentane yielded 6,7-dihydro-3-phenyl-5-[3-(1-piperidinyl)-propyll-1,2-benzisoxazol-4(5H)-one, m.p. 91.5°-93.5° C.

reactant | 5-(3-chloropropyl)-6,7-dihydro-3-phenyl-1,2-benzisoxazol-4(5H)-one | 4.00 g | ClCCCC1CCC2=C(C(=NO2)C2=CC=CC=C2)C1=O | C16H16ClNO2
reactant | diisopropylethyl amine | 4.81 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | piperidine | 1.50 ml | N1CCCCC1 | C5H11N
reactant | sodium iodide | 0.62 g | [I-].[Na+]
solvent | dimethylformamide | 69 ml | CN(C=O)C | C3H7NO
product | 6,7-Dihydro-3-phenyl-5-[3-(1-piperidinyl) -propyl]-1,2-benzisoxazol-4(5H)-one | 2.30 g | C1(=CC=CC=C1)C1=NOC2=C1C(C(CC2)CCCN2CCCCC2)=O | C21H26N2O2
